US07067517B2
N-(6-Hydroxy-pyridin-3-yl)-3,3-dimethyl-butyramide
3,3-Dimethylbutyroyl chloride (4.04 g, 30.0 mmol) was added dropwise to a stirred solution of 5-amino-2-methoxypyridine (3.72 g, 30.0 mmol) in tetrahydrofuran (25 mL). After stirring for 1 hour at room temperature, diethyl ether was added and the solid material was isolated by suction. The N-(6-methoxy-pyridin-3-yl)-3,3-dimethyl-butyramide hydrochloride (4.13 g, 15.96 mmol) was heated at 180° C. for 15 minutes. After cooling to room temperature the product was dissolved in methanol. Partial evaporation of the solvent yielded the title compound (1.15 g, 35% yield) as a solid.

reactant | 3,3-Dimethylbutyroyl chloride | 30.0 mmol, 4.04 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | 5-amino-2-methoxypyridine | 30.0 mmol, 3.72 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | N-(6-methoxy-pyridin-3-yl)-3,3-dimethyl-butyramide hydrochloride | 15.96 mmol, 4.13 g | Cl.COC1=CC=C(C=N1)NC(CC(C)(C)C)=O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-(6-Hydroxy-pyridin-3-yl)-3,3-dimethyl-butyramide | 1.15 g, 35% yield | OC1=CC=C(C=N1)NC(CC(C)(C)C)=O | C11H16N2O2
